* Lab 1 P2/L2 — CMOS inverter reference (hand-written; prefer xschem netlist when available)
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
Vdd vdd 0 1.8
Vgnd vss 0 0
Vi vi 0 PULSE(0 1.8 0 0.2n 0.2n 3n 6n)
Xn vo vi vss vss sky130_fd_pr__nfet_01v8 W=1u L=0.5u
Xp vo vi vdd vdd sky130_fd_pr__pfet_01v8 W=3u L=0.5u
Cload vo vss 0.2p
.tran 1p 15n
.control
run
wrdata inv_tran.txt v(vi) v(vo)
.endc
.dc Vi 0 1.8 0.005
.control
reset
run
wrdata inv_dc.txt v(vi) v(vo)
.endc
.end
